US08119655B2
Compound 79: 1-Acetyl-4-bromo-1,2-dihydro-indol-3-one
1-Acetyl-4-bromo-1H-indole-3-carbaldehyde (3.5 g, 13.2 mmol) was dissolved in CH2Cl2 (50 mL). 3-Chloroperbenzoic acid (3.9 g, 15.8 mmol) was added, and the reaction stirred 16 h at r.t. The solution was washed with sat. NaHCO3 and brine, dried (MgSO4), and concentrated. The residue was stirred with K2CO3 (100 mg) in MeOH (50 mL) for 2 min. The solution was concentrated and purified by silica gel chromatography (100% CH2Cl2) to give 880 mg (26%) of the title compound as a faintly blue solid. MS (ES) [m+H] calc'd for C10H8BrNO2, 254, 256; found 254, 256.

reactant | 1-Acetyl-4-bromo-1H-indole-3-carbaldehyde | 13.2 mmol, 3.5 g | C(C)(=O)N1C=C(C2=C(C=CC=C12)Br)C=O | C11H8BrNO2
reactant | 3-Chloroperbenzoic acid | 15.8 mmol, 3.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-Acetyl-4-bromo-1,2-dihydro-indol-3-one | 880 mg, 26% | C(C)(=O)N1CC(C2=C(C=CC=C12)Br)=O | C10H8BrNO2
